US09382238B2
A mixture of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(1-methyl-3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-yl)acetamide (150 mg, 0.250 mmol) in TFA.DCM (solvate) (10 mL, 10%) was stirred for 0.5 h at 25° C. Then the mixture was concentrated to give the residue which purified by preparative HPLC (column: ASB C18 150*25 mm/Mobile phase A: Water (Water+0.1% HCl)/Mobile phaseB: Acetonitrile/Gradient: 37-67(B %)/Flowrate: 25 mL/min/Run time: 15 min) to yield 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(1-methyl-3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-yl)acetamide hydrochloride (83.1 mg, 0.160 mmol, 63.9% yield): 1H NMR (400 MHz, CD3OD) δ 7.48-7.41 (m, 1H), 7.39 (s, 1H), 7.37 (d, J=3.5 Hz, 1H), 7.33 (d, J=2.0 Hz, 1H), 7.26 (d, J=2.0 Hz, 1H), 6.29 (s, 1H), 4.15 (q, J=7.0 Hz, 2H), 3.86 (s, 2H), 3.73 (s, 3H), 1.51 (s, 6H), 1.50-1.45 (m, 3H). ES-LCMS m/z 481 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(1-methyl-3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-yl)acetamide | 0.250 mmol, 150 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=NN1C)C(C(F)(F)F)(C)C)F | C31H32F4N4O4
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(1-methyl-3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-yl)acetamide hydrochloride | 0.160 mmol, 83.1 mg, 63.9% yield | Cl.C(C)OC1=CC(=CNC1=O)C1=CC(=C(C=C1)CC(=O)NC1=CC(=NN1C)C(C(F)(F)F)(C)C)F | InChI=1S/C23H24F4N4O3.ClH/c1-5-34-17-9-15(12-28-21(17)33)13-6-7-14(16(24)8-13)10-20(32)29-19-11-18(30-31(19)4)22(2,3)23(25,26)27;/h6-9,11-12H,5,10H2,1-4H3,(H,28,33)(H,29,32);1H
